US09278922B2
2-methoxy-N,N-bis(4-nitrobenzyl)ethanamine
To a solution of 2-methoxyethylamine (0.343 mL, 3.99 mmol) in DMF (20.0 mL) at room temperature was added potassium carbonate (0.964 mL, 15.98 mmol) followed by 4-nitrobenzyl bromide (1.812 g, 8.39 mmol). The reaction was stirred for 2 hours then quenched with water, extracted with EtOAc and concentrated. The residue was purified by chromatography (20% to 40% EtOAc-hexane) to provide the title compound. MS (DCI) m/z 346 (M+H)+.

reactant | 2-methoxyethylamine | 3.99 mmol, 0.343 mL | COCCN | C3H9NO
reactant | potassium carbonate | 15.98 mmol, 0.964 mL | C([O-])([O-])=O.[K+].[K+]
reactant | 4-nitrobenzyl bromide | 8.39 mmol, 1.812 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | DMF | 20.0 mL | CN(C)C=O | C3H7NO
product | 2-methoxy-N,N-bis(4-nitrobenzyl)ethanamine | COCCN(CC1=CC=C(C=C1)[N+](=O)[O-])CC1=CC=C(C=C1)[N+](=O)[O-] | C17H19N3O5
